US08168635B2
Ethyl-4-(5′-fluoro-2′-methoxyphenyl)butyrate:
To a solution of ethyl-3-(5′-fluoro-2′-methoxybenzyl)acrylate (2.36 g, 10.0 mmol) in ethanol (100%, 40 mL) under Ar(g) was added Pd/C (10%, 200 mg) very carefully and the flask containing the mixture was evacuated and purged with H2 three time each. Then a balloon was attached to the flask and the reaction was allowed to go for 15 h at room temperature. The reaction mixture was filtered through a pad of silica eluted with mixed solvent of EtOAc and Hexane (1:1). The crude product that obtained by removal of the solvent in vacuo was purified by a flash column chromatography (10% EtOAc in hexane, Rf=0.20) to give the product (2.25 g, 95%).

reactant | ethyl-3-(5′-fluoro-2′-methoxybenzyl)acrylate | 10.0 mmol, 2.36 g | C(C)OC(C=CCC1=C(C=CC(=C1)F)OC)=O | C13H15FO3
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | Ethyl-4-(5′-fluoro-2′-methoxyphenyl)butyrate | 2.25 g, 95% | C(C)OC(CCCC1=C(C=CC(=C1)F)OC)=O | C13H17FO3
